US07544704B2
a) 2-Methyl-4-(5-methyl-3-phenyl-isoxazol-4-yl)-but-3-yn-2-ol
A mixture of 4-iodo-5-methyl-3-phenylisoxazole (5.73 g, 20.1 mmol), palladium(II) acetate (135 mg, 0.60 mmol), 1,3-bis(diphenylphosphino)propane (249 mg, 0.60 mmol), triethylamine (7.0 mL, 50.2 mmol) and 2-methyl-3-butyn-2-ol (3.0 mL, 30.7 mmol) in N,N-dimethylformamide (40 mL) was evaporated and flushed with argon. Cuprous iodide (77 mg, 0.40 mmol) was added and the reaction mixture was stirred for 23 h at 90° C. (after 1.75 h and 4.5 h, respectively, further palladium(II) acetate (135 mg, 0.60 mmol), 1,3-bis(diphenylphosphino)propane (249 mg, 0.60 mmol), triethylamine (7.0 mL, 50.2 mmol), 2-methyl-3-butyn-2-ol (3.0 mL, 30.7 mmol) and cuprous iodide (77 mg, 0.40 mmol) were added) before cooled to ambient temperature and separated between aqueous sodium hydroxide (1 M, 600 mL) and ethyl acetate (1000 mL). The aqueous layer was extracted with ethyl acetate (1000 mL) and washed with aqueous sodium hydroxide (1 M, 600 mL). The combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=67:33) afforded the title compound (3.77 g, 78%) as a yellow oil. MS: m/e=242.2 [M+H]+.

reactant | 4-iodo-5-methyl-3-phenylisoxazole | 20.1 mmol, 5.73 g | IC=1C(=NOC1C)C1=CC=CC=C1 | C10H8INO
reactant | triethylamine | 50.2 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-3-butyn-2-ol | 30.7 mmol, 3.0 mL | CC(C)(C#C)O | C5H8O
reactant | triethylamine | 50.2 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-3-butyn-2-ol | 30.7 mmol, 3.0 mL | CC(C)(C#C)O | C5H8O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.60 mmol, 135 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.60 mmol, 135 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 0.60 mmol, 249 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
catalyst | 1,3-bis(diphenylphosphino)propane | 0.60 mmol, 249 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | 2-Methyl-4-(5-methyl-3-phenyl-isoxazol-4-yl)-but-3-yn-2-ol | 3.77 g, 78% | CC(C)(C#CC=1C(=NOC1C)C1=CC=CC=C1)O | C15H15NO2
